US08377957B2
The method described in Part A of Example 1 was used to treat 2,4-dichloro-3-nitroquinoline (20.6 g, 85.1 mmol) in DMF (100 mL) with triethylamine (35 mL, 0.225 mol) and (R)-(+)-α-methylbenzylamine (13.3 mL, 102 mmol). After the precipitate was isolated by filtration, it was washed with water and diethyl ether to provide 24.35 g of 2-chloro-3-nitro-N-[(1R)-1-phenylethyl]quinolin-4-amine as an orange solid.

reactant | 2,4-dichloro-3-nitroquinoline | 85.1 mmol, 20.6 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | triethylamine | 0.225 mol, 35 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-(+)-α-methylbenzylamine | 102 mmol, 13.3 mL | C[C@H](C1=CC=CC=C1)N | C8H11N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-chloro-3-nitro-N-[(1R)-1-phenylethyl]quinolin-4-amine | 24.35 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])N[C@H](C)C1=CC=CC=C1 | C17H14ClN3O2
